US04094840
(B) 9-Fluoro-11β-hydroxy-17-(methylthio)androsta-1,4,16-trien-3-one
A suspension of 9-fluoro-11β-hydroxy-17,17-bis(methylthio)androsta-1,4-diene-3-one (3.6 g) in diethylbenzene (250 ml) is slowly distilled from a bath at 220° C. In a few minutes, a clear solution results and the starting material disappears. On cooling in an ice bath, the solution deposits small needles of the analytical specimen of the title compound, (2.9 g), melting point 268° C (dec.). (discoloration starts at 263° C).

reactant | 9-fluoro-11β-hydroxy-17,17-bis(methylthio)androsta-1,4-diene-3-one | 3.6 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CCC([C@@]1(C)C[C@@H]2O)(SC)SC)=O)C | C21H29FO2S2
solvent | diethylbenzene | 250 ml | C(C)C1=C(C=CC=C1)CC | C10H14
product | 9-Fluoro-11β-hydroxy-17-(methylthio)androsta-1,4,16-trien-3-one | 2.9 g | F[C@@]12[C@]3(C=CC(C=C3CC[C@H]1[C@@H]1CC=C([C@@]1(C)C[C@@H]2O)SC)=O)C | C20H25FO2S
